US05128463
2-Deoxy-3,4,6-tri-O-acetyl-D-arabino-hexo-pyranose (2-deoxy-3,4,6-tri-O-acetyl-D-glucopyranose)
To a solution of 3,4,6-tri-O-acetyl-D-glucal (25.0 g) and lithium bromide hydrate (25.0 g) in acetonitrile (750 ml), activated resin prepared as in Example 1 (25.0 g) and water (30 ml) were added and stirred at room temperature for 4 h. The product was isolated as described for Example 1. Crystallization from ethyl acetate-hexane gave the title compound as colorless crystals (17.8 g). [α]D20 =+71.2°±2° (c 1.06, CHCl3). 1H NMR δ: 5.40 (broad s, H-1α), 5.35 (m, H-3α), 4.9-5.05 (H-4α,β, H-3β, H-1β), 4.18-4.28 (H-6a, H-5α), 4.10 (H-6bβ), 4.06 (H-6bα). 3.65 (m, H-5β), 2.38 (m, H-2eqb), 2.25 (H-2eqα), 1 79 (H-2axα), 1.67 (H-2axβ). MS m/e 273.11 (M-H2O), 213.10, 153.07.

reactant | 3,4,6-tri-O-acetyl-D-glucal | 25.0 g | C(C)(=O)O[C@@H]1C=CO[C@@H]([C@H]1OC(C)=O)COC(C)=O | C12H16O7
reactant | lithium bromide hydrate | 25.0 g | O.[Br-].[Li+]
reactant | water | 30 ml | O | H2O
solvent | acetonitrile | 750 ml | C(C)#N | C2H3N
product | 2-Deoxy-3,4,6-tri-O-acetyl-D-arabino-hexo-pyranose | 17.8 g | C(C)(=O)O[C@@H]1CC(O)O[C@@H]([C@H]1OC(C)=O)COC(C)=O | C12H18O8
